US04259336
N-(5,6-Dimethyl-2-benzothiazolyl)-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide
Prepared analogous to Example 1 from benzyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 5,6-dimethyl-2-benzothiazolamine with a yield of 80% of theory.

reactant | benzyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OCC1=CC=CC=C1 | C19H15NO5S2
reactant | 5,6-dimethyl-2-benzothiazolamine | CC=1C(=CC2=C(N=C(S2)N)C1)C | C9H10N2S
product | N-(5,6-Dimethyl-2-benzothiazolyl)-4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | yield of 80% | CC=1C(=CC2=C(N=C(S2)NC(=O)C=2N(S(C3=C(C2O)SC2=C3C=CC=C2)(=O)=O)C)C1)C | C21H17N3O4S3
